US04783453
A solution of p-nitrobenzyl (5R,6S)-6-[(R)-1-hydroxyethyl]-2-[4-(2-hydroxyethyl)-1,2,3- triazol-1-yl]carbapen-2-em-3-carboxylate (35 mg, 0.08 mmol) in tetrahydrofuran (5.5 ml) is diluted with ethanol (2.8 ml) and DI water (4.2 ml) containing sodium bicarbonate (6.8 mg, 0.08 mmol). The resulting solution is added to a prereduced mixture of 10% palladium on carbon (37 mg) in ethanol (2.7 ml), and the mixture is stirred under an atmosphere of hydrogen for 2 hours at ambient temperature. The mixture is filtered through a celite pad which is washed with water. The filtrate and wash are extracted with methylene chloride and diethyl ether, concentrated under vacuum, and lyophilized to afford sodium (5R,6S)-6-[(R)-1-hydroxyethyl]-2-[4-(2-hydroxy ethyl)-1,2,3-triazol-1-yl]carbapen-2-em-3-carboxylate.

reactant | p-nitrobenzyl (5R,6S)-6-[(R)-1-hydroxyethyl]-2-[4-(2-hydroxyethyl)-1,2,3- triazol-1-yl]carbapen-2-em-3-carboxylate | 0.08 mmol, 35 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)N2N=NC(=C2)CCO)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H21N5O7
reactant | sodium bicarbonate | 0.08 mmol, 6.8 mg | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5.5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 2.8 ml | C(C)O | C2H6O
solvent | DI water | 4.2 ml | O | H2O
catalyst | palladium on carbon | 37 mg | [Pd] | Pd
solvent | ethanol | 2.7 ml | C(C)O | C2H6O
product | sodium (5R,6S)-6-[(R)-1-hydroxyethyl]-2-[4-(2-hydroxy ethyl)-1,2,3-triazol-1-yl]carbapen-2-em-3-carboxylate | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)N2N=NC(=C2)CCO)C(=O)[O-])C1=O.[Na+] | InChI=1S/C13H16N4O5.Na/c1-6(19)10-8-4-9(11(13(21)22)17(8)12(10)20)16-5-7(2-3-18)14-15-16;/h5-6,8,10,18-19H,2-4H2,1H3,(H,21,22);/q;+1/p-1/t6-,8-,10-;/m1./s1
